US03962325
A solution of 9.2 g (0.09 mol) of triethylamine in 25 ml of ether was added dropwise to a stirred solution of 17.6 g (0.10 mol) of trifluoromethylmalonyl fluoride in 50 ml of ether at -80°C. To the resulting suspension of solid was added 14.1 g (0.11 mol) of ethyl fluorosulfate and the mixture was then allowed to warm to 25°C with stirring. The homogeneous reaction mixture developed two layers after standing overnight. Distillation gave 15 g (74%) of ethyltrifluoromethylmalonyl fluoride, bp 54°-56°C (260 mm), identified by ir.

reactant | triethylamine | 0.09 mol, 9.2 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethylmalonyl fluoride | 0.10 mol, 17.6 g | FC(F)(F)C(C(=O)F)C(=O)F | C4HF5O2
reactant | ethyl fluorosulfate | 0.11 mol, 14.1 g | S(=O)(=O)(OCC)F | C2H5FO3S
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | ethyltrifluoromethylmalonyl fluoride | 15 g, 74% | C(C)C(C(=O)F)(C(=O)F)C(F)(F)F | C6H5F5O2
